US08440666B2
4-(Aminomethyl)pyridazin-3[2H]-one
2-[(3-Oxo-2,3-dihydropyridazin-4-yl)methyl]isoindoline-1,3-dione (255 mg, 1.00 mmol) in methanol (2 mL) was mixed with hydrazine monohydrate (250 mg, 5.00 mmol) at room temperature and stirred at 60° C. for 3 hours. After completion of the reaction, the solid was filtered off with chloroform, and the filtrate was evaporated under reduced pressure repeatedly to give a crude reaction product containing the desired product, which was used for the next step.

reactant | 2-[(3-Oxo-2,3-dihydropyridazin-4-yl)methyl]isoindoline-1,3-dione | 1.00 mmol, 255 mg | O=C1NN=CC=C1CN1C(C2=CC=CC=C2C1=O)=O | C13H9N3O3
reactant | hydrazine monohydrate | 5.00 mmol, 250 mg | O.NN
solvent | methanol | 2 mL | CO | CH4O
product | 4-(Aminomethyl)pyridazin-3[2H]-one | NCC=1C(NN=CC1)=O | C5H7N3O
